US07622469B2
3,6-Dihydro-6,6-dimethyl-4-dodecylamino-2-(4-sulfamoylbenzylamino)-1,3,5-triazine
100 ml of methanol, 80 ml of acetone and 0.3 ml of concentrated hydrochloric acid were added to 5.5 g (10.0 mmol) of N1-(4-sulfamoylbenzyl)-N5-dodecyl-biguanide dihydrochloride. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure. To the residue were added 60 ml of ethanol, 40 ml of water and 6.2 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with 10% aqueous sodium acetate, washed with water, and concentrated under reduced pressure to remove the solvent. The residue was recrystallized repeatedly from a mixture of methyl ethyl ketone and ethanol (8:2) and then from ethanol to obtain 1.4 g of colorless crystals having a melting point of 188 to 191° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | N1-(4-sulfamoylbenzyl)-N5-dodecyl-biguanide dihydrochloride | 10.0 mmol, 5.5 g | Cl.Cl.S(N)(=O)(=O)C1=CC=C(CNC(=N)NC(=N)NCCCCCCCCCCCC)C=C1
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-dodecylamino-2-(4-sulfamoylbenzylamino)-1,3,5-triazine | 1.4 g | CC1(N=C(NC(=N1)NCC1=CC=C(C=C1)S(N)(=O)=O)NCCCCCCCCCCCC)C | C24H42N6O2S
